*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


*OPERATING POINT 1

*change the values to be getting them from data.txt
Vs 1 0 5.18504190779
Ve 0 9 0V
Hd 5 8 Ve 8.14562893937k

Gb 6 3 (2,5) 7.00248816446m

R1 1 2 1.02779694281k
R2 3 2 2.07715672461k
R3 2 5 3.1156225241k
R4 5 0 4.11105908751k
R5 5 6 3.02879032081k
R6 9 7 2.02983164661k
R7 7 8 1.00454956611k

*código que mete a correr o ngspice

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all

echo  "op_END"


quit
.endc

.end
